US08193228B2
DEAD (1.3 mL, 8.2 mmol) was added to an ambient temperature solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol (2.5 g, 4.1 mmol), N-methyl-4-nitrobenzenesulfonamide (1.8 g, 8.2 mmol) and triphenylphosphine (2.7 g, 10.2 mmol) in tetrahydrofuran (20 mL). After stirring at ambient temperature overnight, the reaction mixture was concentrated. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-N-methyl-4-nitrobenzenesulfonamide.

reactant | DEAD | 8.2 mmol, 1.3 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol | 4.1 mmol, 2.5 g | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H40FN3O
reactant | N-methyl-4-nitrobenzenesulfonamide | 8.2 mmol, 1.8 g | CNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | triphenylphosphine | 10.2 mmol, 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-N-methyl-4-nitrobenzenesulfonamide | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C)(CC)C | C48H46FN5O4S
